US04587342
A. 2,4-Diamino-5-(3-(3,3-diethoxypropoxy)-4,5-dimethoxybenzyl)pyrimidine
To a solution of 27.6 g, (0.1 mole) of 2,4-diamino-5-(3-hydroxy-4,5-dimethoxybenzyl)pyrimidine (D. E. Schwartz, W. Vetter, and G. Englert, Arzneim.-Forsch. (Drug Res.) 1970, 20, 1867; G. Rey-Bellet and R. Reiner, Helv. Chim. Acta 1970, 53, 945) in 400 mL of dry dimethyl sulfoxide was added 11.22 g (0.10 mole) of potassium t-butoxide. To the resulting suspension was added dropwise 17.92 g (0.107 mole) of β-chloropropionaldehyde diethylacetal. The mixture was heated at 65° overnight. The solvent was removed under vacuum and the residue was partitioned between 750 mL methylene chloride and 750 mL of 0.1N sodium hydroxide. The organic layer was separated and the aqueous layer was extracted with an additional 750 mL of methylene chloride. The organic layers were combined, washed with 750 mL of water, dried (MgSO4), and purified by flash column chromatography to yield 33.38 g (83%) of the title compound (mp 105°-106.5°). Anal. Calcd for C 20 H30N4O5 : C, 59.10; H, 7.44; N, 13.78. Found: C, 58.71; H, 7.40; N, 13.58.

reactant | 2,4-diamino-5-(3-hydroxy-4,5-dimethoxybenzyl)pyrimidine | 0.1 mole | NC1=NC=C(C(=N1)N)CC1=CC(=C(C(=C1)OC)OC)O | C13H16N4O3
reactant | potassium t-butoxide | 0.10 mole, 11.22 g | CC(C)([O-])C.[K+]
reactant | β-chloropropionaldehyde diethylacetal | 0.107 mole, 17.92 g | C(C)OC(CCCl)OCC | C7H15ClO2
solvent | dimethyl sulfoxide | 400 mL | CS(=O)C | C2H6OS
product | 2,4-Diamino-5-(3-(3,3-diethoxypropoxy)-4,5-dimethoxybenzyl)pyrimidine | 33.38 g, 83% | NC1=NC=C(C(=N1)N)CC1=CC(=C(C(=C1)OC)OC)OCCC(OCC)OCC | C20H30N4O5
